I1 4 7 1e-3  SIN (1e-3 0.5 5 1 1 30)
I2 0 6 1e-3  PWL (0 1e-3) (1.2 0.1) (1.4 1) (2 0.2) (3 0.4)
R1 1 5 1.5
R2 1 2 1
R3 5 2 50
R4 5 6 0.1
R5 2 6 1.5
R6 3 4 0.1
R7 7 0 1000
R8 4 0 10
R9 5 0 2
R10 3 2 2
C1 7 0 0.1
C2 2 0 0.2

.TRAN 0.3 3
.PLOT V(1) V(4) V(5) V(2) V(3) V(6) V(7)
.OPTIONS METHOD=TR SPARSE ITER SPD
*.options sparse
*.control
*run
*plot V(1) V(4) V(5) V(2) V(3) V(6) V(7)

*ITER SPD
.endc
.end